US04592866
Sodium 2-[(1-methyl-3-pyrrolidinyl)oxy]-3-pyridinecarboxylate
To a stirred suspension of 6.4 g (0.13 mole) of 50% sodium hydride (mineral oil) in 50 ml of dimethylsulfoxide was added dropwise 6.4 g (0.063 mole) of 1-methyl-3-pyrrolidinol. During addition, the temperature rose from 25° C. to 31° C. After 10 minutes, a solution of 10 g (0.063 mole) of 2-chloronicotinic acid in 50 ml of dimethylsulfoxide was added dropwise causing the temperature to rise. When the temperature reached 55° C., it was maintained there by the intermittent use of an ice bath until addition was complete. The mixture was then heated to 55°-60° C. for 1.5 hr., cooled and filtered. The filter cake was suspended in 100 ml of ethyl acetate and filtered. The solid was recrystallized from ethyl acetatemethanol. Yield of product was 5 g., dec. 240° C. The NMR analysis showed that the compound contained 1/3 mole of sodium acetate as impurity.

reactant | sodium hydride | 0.13 mole, 6.4 g | [H-].[Na+]
reactant | 1-methyl-3-pyrrolidinol | 0.063 mole, 6.4 g | CN1CC(CC1)O | C5H11NO
reactant | 2-chloronicotinic acid | 0.063 mole, 10 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | sodium acetate | 1/3 mole | C(C)(=O)[O-].[Na+]
solvent | dimethylsulfoxide | 50 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 50 ml | CS(=O)C | C2H6OS
product | Sodium 2-[(1-methyl-3-pyrrolidinyl)oxy]-3-pyridinecarboxylate | CN1CC(CC1)OC1=NC=CC=C1C(=O)[O-].[Na+] | InChI=1S/C11H14N2O3.Na/c1-13-6-4-8(7-13)16-10-9(11(14)15)3-2-5-12-10;/h2-3,5,8H,4,6-7H2,1H3,(H,14,15);/q;+1/p-1
